US06451821B1
The process is performed as in Example 2, starting with 4.77 g of N-(tert-butyl)-N′-[2-hydroxy-1-(3-nitrophenyl)ethyl]thiourea and 44 cm3 of aqueous 6N hydrochloric acid, and this mixture is maintained at a temperature in the region of 100° C. for 2 h 30 min. After an identical work-up, 3.1 g of 4-(3-nitrophenyl)-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride are obtained in the form of a cream-colored solid melting at 232° C.

reactant | N-(tert-butyl)-N′-[2-hydroxy-1-(3-nitrophenyl)ethyl]thiourea | 4.77 g | C(C)(C)(C)NC(=S)NC(CO)C1=CC(=CC=C1)[N+](=O)[O-] | C13H19N3O3S
reactant | hydrochloric acid | 6N | Cl | ClH
product | 4-(3-nitrophenyl)-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride | 3.1 g | Cl.[N+](=O)([O-])C=1C=C(C=CC1)C1N=C(SC1)N | InChI=1S/C9H9N3O2S.ClH/c10-9-11-8(5-15-9)6-2-1-3-7(4-6)12(13)14;/h1-4,8H,5H2,(H2,10,11);1H
